US04904676
A. 1-Methyl-3-(2-amino-thiazol-4-yl)pyridinium bromide
A suspension of 3-(2-amino-thiazol-4-yl)pyridine (12.84 g) in acetonitrile (450 ml) containing bromomethane (6.84 g) was heated in stirring autoclave at 90° C. for 20 h.

reactant | 3-(2-amino-thiazol-4-yl)pyridine | 12.84 g | NC=1SC=C(N1)C=1C=NC=CC1 | C8H7N3S
reactant | bromomethane | 6.84 g | BrC | CH3Br
solvent | acetonitrile | 450 ml | C(C)#N | C2H3N
product | 1-Methyl-3-(2-amino-thiazol-4-yl)pyridinium bromide | [Br-].C[N+]1=CC(=CC=C1)C=1N=C(SC1)N | InChI=1S/C9H10N3S.BrH/c1-12-4-2-3-7(5-12)8-6-13-9(10)11-8;/h2-6H,1H3,(H2,10,11);1H/q+1;/p-1
